US05358939
2-[2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexyloxy]pyrimidine
To a flask was charged 0.15 g (0.0034 mole) of 60% sodium hydride, washed with 2×30 mL hexane, in 20 mL of tetrahydrofuran. While stirring at room temperature, 1.0 g (0.0034 mole) of 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1yl)methyl]hexan-1-ol was added. The slurry was stirred at room temperature and 0.39 g of 2-chloropyrimidine (0.0034 mole) was added. The reaction was stirred overnight after which TLC using ethyl acetate indicated the reaction was complete. The product was isolated from ether after quenching and washing with water. After drying and removal of the solvent, 1.30 g (100% yield) of an oil resulted.

reactant | sodium hydride | 0.0034 mole, 0.15 g | [H-].[Na+]
reactant | 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1yl)methyl]hexan-1-ol | 0.0034 mole, 1.0 g | ClC1=CC=C(C=C1)C(CO)(CCCC)CN1N=CN=C1 | C15H20ClN3O
reactant | 2-chloropyrimidine | 0.0034 mole, 0.39 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 2-[2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexyloxy]pyrimidine | 1.30 g, 100% yield | ClC1=CC=C(C=C1)C(COC1=NC=CC=N1)(CCCC)CN1N=CN=C1 | C19H22ClN5O
